US07183432B2
9-trimethylsilyl-6,8-nonadiyn-1-ol
To a solution of 7-iodo-6-heptynol (100 mg, 0.42 mmol), trimethylsilylacetylene (0.072 ml, 0.5 mmol), diphenyldichloropaladium (10 mg) and copper iodide (3 mg) in 5 ml of THF was added diisopropylamine (0.150 ml) at rt in argon atmosphere. After stirring 1 hr at rt, the mixture was diluted with ether, washed with NH4Cl solution, water and brine, dried over MgSO4 and concentrated. Purification by silica gel chromatography (hexanes:ethyl acetate=4:1) gave 50 mg of product (50% yield).

reactant | 7-iodo-6-heptynol | 0.42 mmol, 100 mg | IC#CCCCCCO | C7H11IO
reactant | trimethylsilylacetylene | 0.5 mmol, 0.072 ml | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylamine | 0.150 ml | C(C)(C)NC(C)C | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | copper iodide | 3 mg | [Cu](I)I
product | 9-trimethylsilyl-6,8-nonadiyn-1-ol | 50 mg, 50% yield | C[Si](C#CC#CCCCCCO)(C)C | C12H20OSi
